US03975375
N-pivaloyl-imidazolidin-2-one ##SPC57##
A suspension, cooled to 0°C, of imidazolidin-2-one (17.2 parts by weight) in tetrahydrofurane (200 parts by volume) was treated dropwise over the course of one hour, with pivaloyl chloride (24.2 parts by weight) at the same temperature. The mixture was then stirred for a further 3 hours at 0°C, triethylamine (27.8 parts by volume) was subsequently added dropwise while cooling with ice water, and the mixture was then left to stand overnight at room temperature. The triethylamine hydrochloride which had separated out was then filtered off, the filtrate was completely concentrated in vacuo by means of a rotary evaporator and the residue was further warmed for 1 hour, in vacuo, in a bath at 60°C. The oily product (crude yield: 32.8 parts by weight) was further processed, as it was. When an attempt was made to distill the substance in vacuo, severe decomposition occurred.

reactant | imidazolidin-2-one | N1C(NCC1)=O | C3H6N2O
reactant | pivaloyl chloride | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofurane | O1CCCC1 | C4H8O
product | N-pivaloyl-imidazolidin-2-one | C(C(C)(C)C)(=O)N1C(NCC1)=O | C8H14N2O2
